US04572909
A mixture of ethyl 4-(2-azidoprop-1-oxy)acetoacetate (13.05 g), 2-chlorobenzaldehyde (8.3 g) and methyl 3-aminocrotonate (6.8 g) in methanol (80 ml) was heated under reflux for 19 hours, reduced to half-volume, and then cooled overnight at -20°. The resulting precipitate was collected, washed with a little cold methanol, and dried to give 2-(2-azidoprop-1-oxymethyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine (4.0 g) as a pale yellow solid, m.p. 115°, characterised spectroscopically.

reactant | ethyl 4-(2-azidoprop-1-oxy)acetoacetate | 13.05 g | N(=[N+]=[N-])C(COCC(CC(=O)OCC)=O)C | C9H15N3O4
reactant | 2-chlorobenzaldehyde | 8.3 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | methyl 3-aminocrotonate | 6.8 g | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | methanol | 80 ml | CO | CH4O
product | 2-(2-azidoprop-1-oxymethyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 4.0 g | N(=[N+]=[N-])C(COCC=1NC(=C(CC1C(=O)OCC)C(=O)OC)C)C | C15H22N4O5
